US03994731
c. Synthesis of 3-Oxo-3-(2-furanyl)-2-[4-(2-hydroquinonylethyl) phenylazo]-propionitrile
By utilizing 350 ml of water, 20 ml of 35% hydrochloric acid and 8 g of sodium nitrite, 35 g of 4-(2,5-bisacetoxyphenylethyl)aniline hydrochloride disclosed in Japanese Pat. Publication No. 444/63 was diazotized. Then, the mixture was neutralized with sodium acetate to adjust the pH of the solution to 6, and the mixture cooled with ice water was added dropwise at 5° C or less to liquid comprising of 13.5 g of 2-cyanoacetylfuran and 300 ml of ethanol. The resulting resinous substance was washed with water and decanted 2 times and then stirred in water, whereby crystals were formed. In 400 ml of ethanol, 40 g of the crude product obtained by filtering the crystals and drying the crystals was suspended. To the suspension, a liquid comprising 40 g of potassium hydroxide and 100 ml of water was added under vacuum, and the mixture heated for several minutes at 60° C, and then rapidly cooled. To the cooled mixture, 200 ml of a 35% hydrochloric acid aqueous solution was added to form crystals which were filtered, washed with water and recrystallized from 250 ml of ethanol to provide 19.5 g of the compound having a melting point of 175° to 178° C.

reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium nitrite | 8 g | N(=O)[O-].[Na+]
reactant | 4-(2,5-bisacetoxyphenylethyl)aniline hydrochloride | 35 g | Cl.C(C)(=O)OC1=C(C=C(C=C1)OC(C)=O)CCC1=CC=C(N)C=C1
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-cyanoacetylfuran | 13.5 g | C(#N)CC(=O)C=1OC=CC1 | C7H5NO2
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 350 ml | O | H2O
product | 3-Oxo-3-(2-furanyl)-2-[4-(2-hydroquinonylethyl) phenylazo]-propionitrile | 19.5 g | O=C(C(C#N)N=NC1=CC=C(C=C1)CCC1=C(O)C=CC(=C1)O)C=1OC=CC1 | C21H17N3O4
